US04091115
A solution of 22.7 g of monomethylamine in 160 ml of benzene was added to a solution of 40 g of 5-oxo-8,9-dihydro [5H] benzocycloheptene in 400 ml of ethanol and the mixture was stirred for 2 1/2 hours and was evaporated to dryness to obtain 47.5 g of 7-methylamino-5-oxo-6,7,8,9-tetrahydro [5H] benzocycloheptene which was used as is for the next step.

reactant | monomethylamine | 22.7 g | CN | CH5N
reactant | 5-oxo-8,9-dihydro [5H] benzocycloheptene | 40 g | O=C1C=CCCC2=C1C=CC=C2 | C11H10O
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 7-methylamino-5-oxo-6,7,8,9-tetrahydro [5H] benzocycloheptene | 47.5 g | CNC1CC(C2=C(CC1)C=CC=C2)=O | C12H15NO
